US07517889B2
A solution of (6-chloro-2-methanesulfonyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine (821 mg, 2.16 mmol) in THF (15 mL) is cooled to 0° C. A 1 M solution of vinyl magnesium bromide in THF (5.4 mL, 5.4 mmol) is added and the mixture is stirred for 30 minutes before adding water (30 mL) and extracted thrice with EtOAc (50 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and evaporated. The residue is subjected to chromatography on silica gel eluting with 30% ethyl acetate:heptane to afford (6-chloro-2-vinyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine (600 mg) as a solid.

reactant | (6-chloro-2-methanesulfonyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 2.16 mmol, 821 mg | ClC1=CC(=NC(=N1)S(=O)(=O)C)NCCC1=C(C=C(C=C1)Cl)Cl | C13H12Cl3N3O2S
reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | water | 30 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.4 mmol, 5.4 mL | C1CCOC1 | C4H8O
product | (6-chloro-2-vinyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 600 mg | ClC1=CC(=NC(=N1)C=C)NCCC1=C(C=C(C=C1)Cl)Cl | C14H12Cl3N3
